US05356918
25(a) (4R)-N-(4-Hydroxybutyl)-2-oxothiazolidine-4-carboxamide
Following a procedure similar to that described in Example 16(a), but using 1.2 g of (4R)-2-oxothiazolidine-4-carboxylic acid and 2.23 g of N-(4-hydroxybutyl)amine, 0.735 g of the title compound was obtained as colorless crystals, melting at 81°-83° C.

reactant | (4R)-2-oxothiazolidine-4-carboxylic acid | 1.2 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | N-(4-hydroxybutyl)amine | 2.23 g | OCCCCN | C4H11NO
product | (4R)-N-(4-Hydroxybutyl)-2-oxothiazolidine-4-carboxamide | 0.735 g | OCCCCNC(=O)[C@H]1NC(SC1)=O | C8H14N2O3S
